US07750003B2
5-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]pyridin-2-amine
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine (363 mg, 1.19 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 DME:water:ethanol (7 mL). 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (496 mg, 2.25 mmol), 2M sodium carbonate solution (2 mL) and dichlorobis(triphenylphosphine) palladium (42 mg) were added to the solution and it was heated under reflux at 90° C. for 90 minutes under nitrogen atmosphere. The reaction was partitioned between ethyl acetate (50 mL) and water (50 mL), the organics dried over magnesium sulphate, filtered and concentrated in vacuo to give the desired product as a yellow oil (410 mg) which was used without further purification.

reactant | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 1.19 mmol, 363 mg | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
reactant | water | O | H2O
reactant | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 2.25 mmol, 496 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME | COCCOC | C4H10O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 5-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]pyridin-2-amine | 410 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C=1C=CC(=NC1)N | C16H21N5O3S
